US04343808
The compound 3-cyanophenoxyacetonitrile was prepared by heating 20.0 g of 3-cyanophenol, 30.1 g of anhydrous potassium carbonate and 30 ml of dimethylformamide with stirring in a 250 ml round-bottomed three-necked flask to 70° C. and then 12.7 g of chloroacetonitrile was added dropwise over a 15 minute period with cooling. The temperature of the mixture was held at 70°-80° C. for three hours, after which time the reaction mixture was poured into approximately 700 ml of ice and water which resulted in crystal formation. The crystals were separated by filtering and then washed thoroughly with water. After drying in a vacuum oven, a tan solid 3-cyanophenoxyacetonitrile was obtained.

reactant | 3-cyanophenol | 20.0 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 30.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | chloroacetonitrile | 12.7 g | ClCC#N | C2H2ClN
solvent | water | O | H2O
product | 3-cyanophenoxyacetonitrile | C(#N)C=1C=C(OCC#N)C=CC1 | C9H6N2O
